Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Levofloxacin
 
Attending: ___.
 
Chief Complaint:
Fever, sore throat 
 
Major Surgical or Invasive Procedure:
NONE

 
History of Present Illness:
___ male with metastatic prostate cancer presented to 
the  
ED with fever, sore throat, and malaise that started last 
___. He  
was noted to have an ANC of 330 on ___ on routine labs. He 
had  
presented previously to the ED on ___ with similar symptoms 
(ANC  
of 484) and was discharged home on a 4 day course of 
Azithromycin. The  
fever persisted and the patient was instructed to present to the 
ED  
for further evaluation.  
.  

 
Past Medical History:
1. Prostate Cancer diagnosed ___ with ___ Score 4+4=8 and 
 
4+5=9. Bone scan ___ revealed numerous osseous metastases. CT 
 
abdomen ___ multiple bony mets involving pelvis and ninth 
left rib,  
as well as soft tissue abnormality on right seminal vesicle 
concerning  
for tumor extension.  
2. Cataracts  
3. Recurrent UTI  
4. SBO (___)  
5. TURP in ___ (benign)  

 
Social History:
___
Family History:
His father had a history of prostate cancer, but  
died at ___ years after a fall. His brother died at ___ years of  
metastatic prostate cancer. His sister died at ___ years and had  

no history of malignancy.  

 
Physical Exam:
T: 98.1 BP: 103/47 HR: 59 RR: 21 O2 96% RA  
Gen: Pleasant, elderly male in NAD  
HEENT: No conjunctival pallor. No icterus. MMM. OP clear.  
NECK: Supple, JVP low  
CV: RRR. nl S1, S2. No murmurs, rubs ___  
LUNGS: Diffuse rhonchi, greatest at bases bilaterally.  
ABD: NABS. Soft, NT, ND. No HSM  
EXT: WWP, NO CCE. Full distal pulses  
SKIN: Multiple erythematous plaques on face  
NEURO: A&Ox3. Appropriate. CN ___ grossly intact. Moving all 
extremities  

 
Pertinent Results:
___ 07:10AM BLOOD WBC-3.4* RBC-2.57* Hgb-8.5* Hct-24.5* 
MCV-96 MCH-33.1* MCHC-34.6 RDW-17.6* Plt Ct-84*
___ 05:45PM BLOOD WBC-3.9*# RBC-2.56* Hgb-9.7* Hct-25.7* 
MCV-100* MCH-37.8* MCHC-37.7* RDW-17.4* Plt ___
___ 03:33AM BLOOD Neuts-49* Bands-42* Lymphs-1* Monos-4 
Eos-0 Baso-0 ___ Metas-3* Myelos-1*
___ 07:10AM BLOOD Neuts-90* Bands-6* ___ Monos-3 Eos-0 
Baso-0 ___ Metas-1* Myelos-0
___ 06:30AM BLOOD Glucose-90 UreaN-18 Creat-0.6 Na-139 
K-3.9 Cl-108 HCO3-25 AnGap-10
___ 06:30AM BLOOD Calcium-7.9* Phos-1.6* Mg-2.1
___ 07:10AM BLOOD Albumin-3.1* Calcium-7.8* Phos-1.6*# 
Mg-2.1
___ 03:33AM BLOOD Cortsol-29.7*
___ 07:10AM BLOOD PSA-256.0*
 
Brief Hospital Course:
.
In brief, Mr. ___ is a ___ year old gentleman with a history 
of metastatic prostate cancer on mitoxantrone who initially 
presented with malaise, sore throat, and fevers. Prior to his 
admission on ___, he was seen in the ED ___ for these 
complaints and was discharged to home with a prescription for 
azithromycin. However, his symptoms failed to improve after 
treatment so he re-presented to the ED on ___. In the ED, he 
received cefepime, vanco, and fluconazole as he had recently 
been neutropenic and was admitted to OMED on ___. On 
admission, he was initially treated with vancomycin and cefepime 
which was narrowed to cefepime alone when he was found to be 
not-neutropenic. There was no obvious source of infection with 
normal U/A and CXR. His regular dose of prednisone was held.  
.  
On the evening of ___, patient had a witnessed aspiration 
event with associated hypoxia. CXR confirmed new infiltrate at ___ 
lung base. He was treated for presumed aspiration pneumonitis in 
the ICU. He was cotinued on cefepime alone. He was ruled out for 
flu with DFA and all cultures remained negative including urine 
legionella Ag. He received aggressive chest ___ and O2 was weaned 
to RA. He had a swallow evaluation which cleared him for a 
pureed diet which was started. He had SBP readings in the ___, 
although asymptomatic, and he received IVF with SBP to 100s. He 
received a total of 1.5 L NS during his MICU stay. Labs during 
his MICU stay revealed an increase in WBC count (4->7), 
significant bandemia of 42%, slight Hct drop (stable on repeat), 
and stable thrombocytopenia. A random cortisol was checked and 
was 29.  
.  
On transfer back to the floor the patient is breathing 
comfortably on room air. Notes he ate new diet without problem. 
He denies any current fevers, chills, chest pain, SOB, abdominal 
pain, nausea, vomiting, or any other concerns.  
.
# Aspiration: Patient was continued on cefpodoxime for 5 more 
days, he was seen by  speech and swallow and his diet was nectar 
thickened liquids.  
.  
# Prostate cancer: Patient's prednisone was held while concern 
for infection, then restarted on the day of discharge.  There 
was no chemo given during the hospitalization, patient was 
followed up as an outpatient
- Tx as per outpatient oncology team  
- restart prednisone tomorrow  
.
# Code: Full code (confirmed with pt)  
.  
# Dispo: social work was consulted prior to discharge for help 
with patient coping as he felt concerned about his functional 
decline.  Home services were set up for this patient.

 
Medications on Admission:
Lupron 22.5 mg every three months  
Megace 400 mg daily  
Prednisone 5 mg daily  
Compazine 10 mg q.6h. p.r.n. nausea and vomiting  
Vitamin C ___ mg daily  
Colace 100 mg b.i.d  
Multivitamin one tablet daily  
MiraLax p.r.n. constipation  
Senokot p.r.n. constipation  
Vitamin E 400 units daily  

 
Discharge Medications:
1. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed.  
2. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed.  
3. Cefpodoxime 100 mg Tablet Sig: Two (2) Tablet PO Q12H (every 
12 hours) for 4 days.
Disp:*16 Tablet(s)* Refills:*0*
4. Compazine 10 mg Tablet Sig: One (1) Tablet PO every six (6) 
hours as needed for nausea.  
5. Miralax 17 gram (100 %) Powder in Packet Sig: One (1) capful 
PO once a day as needed for constipation.  
6. Prednisone 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  


 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
Bronchitis
Aspiration
Prostate Cancer

 
Discharge Condition:
Stable on room air.

 
Discharge Instructions:
You came to the hospital with sore throat, fever and difficulty 
swallowing.  We treated you with antibiotics.  You apirated on 
your food and this caused you to have difficulty breathing.  We 
transferred you to the ICU and you did well and came back to the 
floor.  You were able to breathe well without oxygen.  Our 
physical therapists worked with you and found you were safe and 
ready to go home.  
.
We made the following changes to your medications:
Added Cefpodoxime for 4 more days 
.
We had our speech and swallow team evaluate you and they 
recommended that you have a thick liquid diet, they will send 
someone to your home to help you with your diet.
.
If you have any difficulty breathing, chest pain, shortness of 
breath, fever, nausea vomiting or diarrhea, or any other 
symptoms that are concerning to you please call your doctor or 
come to the emergency room.
 
Followup Instructions:
___